Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
morphine / oxycodone / Statins-Hmg-Coa Reductase Inhibitors
 
Attending: ___.
 
Chief Complaint:
Hemoptysis
 
Major Surgical or Invasive Procedure:
___: Bronchoscopy
 
History of Present Illness:
___ is a ___ female with a history of A. fib 
not on anti-coagulation, CHF, recent diagnosis of right lower 
lung ___ transferred from outside hospital with 
hemoptysis. Patient with ___ with lung cancer 10 days ago. 
Has not scheduled to start chemotherapy radiation. Today had 3 
episodes of hemoptysis while coughing, last episode 2 ___. 
Overall, ___ cups of blood. Hematocrit outside hospital was 41. 

Initial Vitals:  
7.3 |94 |116/72 |16 |94% 3L NC

Exam notable for: 
Resp: Coarse rhonchi with crackles ___ right lower lung base, 
normal work of breathing
CV: Regular rate and rhythm, normal ___ and ___ heart sounds, 2+ 
distal pulses. Capillary refill less than 2 seconds.

Labs:  
Cl 93
BUN/Cr ___
WBC 11
Hbg 12.9
Hct 42.2

___: 13.2  PTT: 26.1  INR: 1.2  

Imaging:  

CT CHEST W/ CONTRAST: 
1. 6.3 x 4.1 x 5 cm mass invades the mediastinum, right hila and 
right pulmonary artery with an endobronchial component of 1.5 cm 
___ the right mainstem bronchus. Given the size and the degree of 
invasion the origin of the mass is unclear. 
2. Right main pulmonary artery tumoral thrombus. 
3. Right lower lobe collapse with central hypoattenuation is 
likely tumoral. 
4. Diffuse nodular opacities ___ the right middle lobe are likely 

postobstructive infection. 
5. Filling defects ___ the left pulmonary veins could be related 
to flow  however thrombus cannot be excluded. 

Consults:  
IP

Interventions:  
None

VS Prior to Transfer:  

98.7 |88| 126/76|22| 97% 4L NC

 
ROS: Positives as per HPI; otherwise negative.  
 

 
Past Medical History:
Atrial fibrillation 
CHF
CAD
Diabetes Mellitus
Asthma 
GERD
Squamous cell lung cancer 

 
Social History:
___
Family History:
Brother with history of pancreatic cancer. Multiple family 
members with CAD. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VS: T 98.3 HR 85 BP 119/66 RR 18 O2 100% 4L NC 
General: Well developed, well nourished, alert and cooperative,
and appears to be ___ no acute distress.
HEENT: Normocephalic, atraumatic. PERRLA. EOMI.
Neck: Neck supple, non-tender without lymphadenopathy, masses or
thyromegaly.
Cardiac: Normal S1 and S2. No S3, S4 or murmurs. Rhythm is
irregular. There is trace peripheral edema, no cyanosis or
pallor. 
Pulmonary: Occasional rhonchi and end expiratory 
wheezing.sounds.
Abdomen: Normoactive bowel sounds.  Soft, nondistended,
nontender.  No guarding or rebound.  No masses.
Neuro: Alert and oriented x3. No gross focal deficits. 
Psych: Appropriate mood and affect. 
Skin: Skin type II. Skin normal color, texture and turgor with 
no
lesions or eruptions.

DISCHARGE PHYSICAL EXAM:
========================
General: Well developed, well nourished, alert and cooperative, 
and appears to be ___ no acute distress.
HEENT: Normocephalic, atraumatic. PERRLA. EOMI.
Neck: Neck supple, non-tender without lymphadenopathy, masses or 
thyromegaly.
Cardiac: Normal S1 and S2. No S3, S4 or murmurs. Rhythm is 
irregular.
Pulmonary: CTAB
Abdomen: Normoactive bowel sounds.  Soft, nondistended,
nontender.  No guarding or rebound.  No masses.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 09:53PM BLOOD WBC-11.0* RBC-4.99 Hgb-12.9 Hct-42.2 
MCV-85 MCH-25.9* MCHC-30.6* RDW-13.8 RDWSD-42.5 Plt ___
___ 09:53PM BLOOD Neuts-78.9* Lymphs-7.9* Monos-11.3 
Eos-1.0 Baso-0.4 Im ___ AbsNeut-8.69* AbsLymp-0.87* 
AbsMono-1.25* AbsEos-0.11 AbsBaso-0.04
___ 09:53PM BLOOD ___ PTT-26.1 ___
___ 09:53PM BLOOD Glucose-150* UreaN-20 Creat-0.9 Na-138 
K-3.9 Cl-93* HCO3-30 AnGap-15
___ 03:16AM BLOOD ALT-7 AST-11 LD(LDH)-274* AlkPhos-84 
TotBili-0.4
___ 03:16AM BLOOD Albumin-2.9* Calcium-9.2 Phos-2.6* Mg-2.0 
UricAcd-5.7

PERTINENT LABS/MICRO:
=====================
___ MRSA screen: Negative
___ Urine legionella: Negative
___ Sputum culture: 
 GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND SINGLY. 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S). 

   RESPIRATORY CULTURE (Preliminary):    RESULTS PENDING. 

DISCHARGE LABS:
===============
___ 03:49AM BLOOD WBC-10.9* RBC-4.34 Hgb-11.2 Hct-36.9 
MCV-85 MCH-25.8* MCHC-30.4* RDW-13.9 RDWSD-42.8 Plt ___
___ 03:49AM BLOOD Glucose-66* UreaN-20 Creat-0.9 Na-138 
K-3.8 Cl-97 HCO3-31 AnGap-10
___ 03:49AM BLOOD Calcium-8.7 Phos-3.4 Mg-2.0

PERTINENT IMAGING:
===================
CT Chest w/ contrast ___:
1. Large endobronchial lesion occluding the airway ___ the right 
lower lobe, right middle lobe and bronchus intermedius causing 
postobstructive atelectasis of the right lower lobe and likely 
postobstructive pneumonia ___ the right lower lobe and middle 
lobe. 
2. There is tumor invasion of the right lower lobe, middle lobe, 
and 
interlobar pulmonary arteries. 
3. Bland thrombus ___ the left atrium appendages, could cause 
further emboli. 
4. Small right pleural effusion, difficult to exclude pleural 
invasion. 
5. Hilar and mediastinal adenopathy are inseparable from the 
primary tumor. 
6. Left adrenal lesion is concerning for metastasis. 
7. Right hepatic lesion could represent metastasis or less 
likely infarct. 
8. Possible splenic infarct. 
9. Likely old dissection ___ the infrarenal abdominal aorta with 
thrombosed 
lumen causing 50% stenosis. 

___ Bronchoscopy: 
Rigid bronchoscopy, flexible bronchoscopy, aspiration of 
secretions, tumor destruction by electrocautery snare, 
mechanical excision of tumor by forceps 

___ Transbronchial biopsy: pending
 
Brief Hospital Course:
Ms. ___ is a ___ female with a history of afib not 
on anti-coagulation, CHF, DM, recent diagnosis of right lower 
lung squamous cell carcinoma who presented with hemoptysis. She 
was initially admitted to ICU for airway monitoring and IP 
intervention. She underwent bronchoscopy, which revealed a right 
mainstem tumor partially obstructing the airway. Tumor removal 
and cauterization occurred without issues. She remained 
hemodynamically stable, without recurrent hemoptysis. 

ACUTE ISSUES 
===============
# Squamous cell carcinoma of lung
# Tumor invasion into right pulmonary artery
# Hemoptysis
Presented with two weeks of hemoptysis, transferred from 
___ for monitoring. CT chest showed a 6.3x4.1x5cm mass 
invading the mediastinum, right hila and right pulmonary artery. 
Given location into blood vessel, she was admitted to the MICU 
for close monitoring of respiratory status. IP was consulted; 
she underwent bronchoscopy ___ the OR on ___, which showed right 
mainstem tumor with partial airway obstruction. She underwent 
debulking with electrocautery snare and mechanical excision with 
improvement ___ the opening of RUL. No active bleed. ___ also made 
aware of patient but no intervention was done. 
Post-bronchoscopy, the patient was more hypoxemic and wheezing, 
responded well to nebulizer, and by day 1 post-bronch she was 
saturating >95% on 1L NC (uses ___ at home intermittently). 
Spoke to Dr. ___ with radiation oncology who will work on 
scheduling the patient for earlier outpatient radiation therapy, 
likely ___ or ___, and there is no plan for inpatient radiation. 
IP will set up follow up ___ two weeks time. Given clinical 
stability, the patient was discharged home with close follow up 
and return precautions. 

#Hypoxic respiratory failure 
#Lung cancer
#Asthma 
Required nasal cannula, felt to be multifactorial ___ setting of 
asthma and lung cancer with endobronchial invasion as above. 
Baseline 2L oxygen nightly and intermittently during the day. As 
above, post bronch required increased O2 supplementation and 
more aggressive nebulizer regimen. On discharge, required ___ 
NC for Sats >95%. Her ambulatory O2 saturations were >92% with 
___ prior to discharge.  

#Leukocytosis 
#Post-obstructive pneumonia
Leukocytosis to 11 with CT imaging showing nodularity concerning 
for post-obstructive pneumonia. Treated with clindamycin x 7 
days (d1 ___. 

CHRONIC ISSUES 
=============== 
#Atrial fibrillation
CHADS-VASC 5. Previously on Eliquis though this was held as of 2 
weeks prior to admission ___ setting of hemoptysis. 
Anticoagulation was also held during this admission. She was 
continued on her home metoprolol, fractionated while inpatient, 
and diltiazem. She should have cardiology outpatient follow up 
for discussion of risks/benefits of anticoagulation. 

#Diabetes Mellitus
Blood sugars remained stable on home glargine 30 units nightly 
and sliding scale insulin. 

#CHF
- Continued home furosemide 

#CAD
History of MI at age ___. Continued home fenofibrate, held 
aspirin ___ the setting of bleeding. She should follow up with 
her PCP and possibly cardiology to discuss risks/benefits of 
restarting aspirin given high risk of bleeding. 

#GERD
- Continued home PPI

Transitional Issues
===================
[]Follow up with PCP, ___, pulmonology as an outpatient
[]Consider cardiology referral or return visit to weigh ___ on 
risks/benefits of anticoagulation and ASA iso of afib/CAD with 
prior MI
[] Will need urgent radiation due to tumor burden, please ensure 
she is set up this week with Dr. ___. 
[] F/u O2 sats at outpatient follow up appointment 
[] Clindamycin through ___ for post-obstructive PNA

#CODE STATUS: Full code
#EMERGENCY CONTACT: Husband, ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral DAILY 
3. Fenofibrate 54 mg PO DAILY 
4. Furosemide 80 mg PO DAILY 
5. glimepiride 4 mg oral DAILY 
6. Klor-Con M20 (potassium chloride) 20 mEq oral DAILY 
7. Magnesium Oxide 400 mg PO BID 
8. MetOLazone 2.5 mg PO DAILY:PRN edema 
9. Metoprolol Succinate XL 200 mg PO DAILY 
10. Pantoprazole 40 mg PO Q24H 
11. Sucralfate 1 gm PO DAILY:PRN GERD 
12. Diltiazem Extended-Release 120 mg PO BID 
13. Anoro Ellipta (umeclidinium-vilanterol) 62.5-25 
mcg/actuation inhalation DAILY 
14. Arnuity Ellipta (fluticasone furoate) 200 mcg/actuation 
inhalation DAILY 
15. Basaglar KwikPen U-100 Insulin (insulin glargine) 100 
unit/mL (3 mL) subcutaneous QHS 

 
Discharge Medications:
1.  Clindamycin 300 mg PO QID 
RX *clindamycin HCl 300 mg 1 capsule(s) by mouth four times a 
day Disp #*22 Capsule Refills:*0 
2.  Anoro Ellipta (umeclidinium-vilanterol) 62.5-25 
mcg/actuation inhalation DAILY  
3.  Arnuity Ellipta (fluticasone furoate) 200 mcg/actuation 
inhalation DAILY  
4.  Basaglar KwikPen U-100 Insulin (insulin glargine) 100 
unit/mL (3 mL) subcutaneous QHS  
5.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral DAILY  
6.  Diltiazem Extended-Release 120 mg PO BID  
7.  Fenofibrate 54 mg PO DAILY  
8.  Furosemide 80 mg PO DAILY  
9.  glimepiride 4 mg oral DAILY  
10.  Klor-Con M20 (potassium chloride) 20 mEq oral DAILY  
11.  Magnesium Oxide 400 mg PO BID  
12.  MetOLazone 2.5 mg PO DAILY:PRN edema  
13.  Metoprolol Succinate XL 200 mg PO DAILY  
14.  Pantoprazole 40 mg PO Q24H  
15.  Sucralfate 1 gm PO DAILY:PRN GERD  
16. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until instructed by a doctor. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Primary
Squamous cell carcinoma of lung
Hemoptysis 
Hypoxic respiratory failure 

#Secondary
Post-obstructive pneumonia
Atrial fibrillation
Coronary artery disease 
Diabetes mellitus type II 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ because you were coughing up blood. 
The pulmonary doctors ___ and did a bronchoscopy where 
they were able to removed some tumor from your airway. You did 
well after the procedure and did not have any further bleeding.

It is very important that you follow up with your PCP and your 
radiation oncologist to make sure that you get the treatment you 
need for your cancer. You should also follow up with your 
primary care provider and possibly ___ cardiologist to discuss 
whether to restart your blood thinners and aspirin. For now, 
please continue to hold both. 

It was a pleasure caring for you!

Sincerely,
Your ___ Care Team

 
Followup Instructions:
___